US04810713
1-[4-(3-Chloropropoxy)-2-methoxyphenyl]ethanone
A mixture of 10.6 g (0.637 mole) of 1-(4-hydroxy-2-methoxyphenyl)ethanone, 20 g (0.127 mole) of 1-bromo-3-chloropropane and 26.4 g (0.19 mole) of anhydrous potassium carbonate in 250 ml of acetone was heated at reflux for 20 hr. The mixture was cooled, filtered and the filtrate concentrated under vacuum pump pressure at 90° C. to give an oil which gradually crystallized. The solid was triturated with petroleum ether (30°-60° C.), collected by filtration and dried to yield 14.6 g (94%) of white solid, m.p. 47°-49° C. on recrystallizing from isopropyl ether.

reactant | 1-(4-hydroxy-2-methoxyphenyl)ethanone | 0.637 mole, 10.6 g | OC1=CC(=C(C=C1)C(C)=O)OC | C9H10O3
reactant | 1-bromo-3-chloropropane | 0.127 mole, 20 g | BrCCCCl | C3H6BrCl
reactant | potassium carbonate | 0.19 mole, 26.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 250 ml | CC(=O)C | C3H6O
product | 1-[4-(3-Chloropropoxy)-2-methoxyphenyl]ethanone | 14.6 g, 94% | ClCCCOC1=CC(=C(C=C1)C(C)=O)OC | C12H15ClO3
